US07432392B2
a) Diethyl 2-hydroxymethyl-2-phenylmalonate
Paraformaldehyde (720 mg) was suspended in diethyl phenylmalonate (4.73 g), and potassium hydroxide (catalytic amount) was added thereto at 60° C. After stirring for 1.5 hours, the reaction solution was purified by chromatograophy on silica gel (ethyl acetate:hexane=1:5 to 1:2) to give the title compound (4.96 g).

reactant | Paraformaldehyde | 720 mg | C=O | CH2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | diethyl phenylmalonate | 4.73 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
product | Diethyl 2-hydroxymethyl-2-phenylmalonate | 4.96 g | OCC(C(=O)OCC)(C(=O)OCC)C1=CC=CC=C1 | C14H18O5
